US04775671
18.0 g (64.8 mmol) of 7-chloro-4,5-dihydro-3-hydroxymethyl-5methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 75 g of manganese dioxide and 700 ml of methylene chloride are stirred at room temperature for 1.5 hours. The reaction mixture is filtered and the filtrate is evaporated. By recrystallization of the residue from alcohol there is obtained 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde of melting point 204°-205°.

reactant | 7-chloro-4,5-dihydro-3-hydroxymethyl-5methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 64.8 mmol, 18.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1CO)C)=O | C13H12ClN3O2
catalyst | manganese dioxide | 75 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=O)C)=O | C13H10ClN3O2
